US05958914
A solution of ethyl 2-(Z)-hydroxyimino-3-oxopentanoate (10 g) in 10 ml of acetic acid was cooled to 0° C. and treated dropwise with sulfuryl chloride (5.3 ml). The mixture was stirred for 3 hours at room temperature and quenched by ice-water. The mixture was extracted with ethyl acetate, and the extracts were washed with brine and dried with magnesium sulfate. The solvent was removed under reduced pressure to afford ethyl 4-chloro-2-(Z)-hydroxyimino-3-oxopentanoate (11.97 g).

reactant | ethyl 2-(Z)-hydroxyimino-3-oxopentanoate | 10 g | O\N=C(/C(=O)OCC)\C(CC)=O | C7H11NO4
reactant | sulfuryl chloride | 5.3 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | ethyl 4-chloro-2-(Z)-hydroxyimino-3-oxopentanoate | 11.97 g | ClC(C(/C(/C(=O)OCC)=N/O)=O)C | C7H10ClNO4
